US06593333B1
6-Hydroxy-7-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline
A mixture of 6-acetoxy-7-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline dihydrochloride (150 mg) and methanolic ammonia (2 ml) was stirred and heated to 50° C. for 48 hours. The mixture was allowed to cool to ambient temperature and the resultant solid was isolated and washed with diethyl ether (10 ml). There was thus obtained the title compound (95 mg, 78%); NMR: 2.12 (s, 3H), 3.51 (m, 4H), 3.7 (m, 4H), 3.97 (s, 3H), 7.09 (m, 1H), 7.12 (s, 1H), 7.23 (m, 2H), 7.57 (m, 1H), 7.69 (s, 1H), 7.72 (m, 1H), 8.23 (s, 1H), 8.26 (m, 1H), 9.17 (s, 1H), 10.28 (s, 1H); m/s: M+H+ 487.

reactant | 6-acetoxy-7-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline dihydrochloride | 150 mg | Cl.Cl.C(C)(=O)OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C
reactant | ammonia | 2 ml | N | H3N
product | 6-Hydroxy-7-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline | 95 mg, 78% | OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C26H26N6O4
